*Leakage current/power in XOR2 cell

.model  nmos  nmos  level = 54

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = toxe_n       toxp    = toxp_par          toxm    = toxm_n     
+dtox    = 2.5e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 3.75e-009     
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = toxref_n     
+xl	   = -20e-9

+vth0    = 0.46893         k1      = 0.4             k2      = 0               k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = 0               dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-010        
+dvtp1   = 0.1             lpe0    = 0               lpeb    = 0               xj      = xj_n      
+ngate   = 1e+023          ndep    = ndep_n       nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.13           nfactor = 2.22            eta0    = 0.0055          etab    = 0             
+vfb     = -0.55           u0      = 0.054           ua      = 6e-010          ub      = 1.2e-018      
+uc      = 0               vsat    = 170000          a0      = 1               ags     = 0             
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = 0.04            dwg     = 0               dwb     = 0               pclm    = 0.02          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = -0.005          drout   = 0.5           
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 1e-007        
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 155             rsw     = 80              rdw     = 80            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.02            bigc    = 0.0025        
+cigc    = 0.002           aigsd   = 0.02            bigsd   = 0.0025          cigsd   = 0.002         
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010    
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1             
+moin    = 15              noff    = 0.9             voffcv  = 0.02          

+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5          
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0             

+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1             
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1             
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1             
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1             
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1             
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010        
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5           
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1             
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001         
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001         
+xtis    = 3               xtid    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1             



.model  pmos  pmos  level = 54

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = toxe_p      toxp    = toxp_par          toxm    = toxm_p      
+dtox    = 3e-010          epsrox  = 3.9             wint    = 5e-009          lint    = 3.75e-009     
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = toxref_p     
+xl	   = -20e-9

+vth0    = -0.49158        k1      = 0.4             k2      = -0.01           k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = -0.032          dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-011        
+dvtp1   = 0.05            lpe0    = 0               lpeb    = 0               xj      = xj_p      
+ngate   = 1e+023          ndep    = ndep_p       nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.126          nfactor = 2.1             eta0    = 0.0055          etab    = 0             
+vfb     = 0.55            u0      = 0.02            ua      = 2e-009          ub      = 5e-019        
+uc      = 0               vsat    = 150000          a0      = 1               ags     = 1e-020        
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = -0.047          dwg     = 0               dwb     = 0               pclm    = 0.12          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = 3.4e-008        drout   = 0.56          
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 8.14e+008       pscbe2  = 9.58e-007     
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 155             rsw     = 75              rdw     = 75            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.010687        bigc    = 0.0012607     
+cigc    = 0.0008          aigsd   = 0.010687        bigsd   = 0.0012607       cigsd   = 0.0008        
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 1.1e-010        cgdo    = 1.1e-010        cgbo    = 2.56e-011       cgdl    = 2.653e-010    
+cgsl    = 2.653e-010      ckappas = 0.03            ckappad = 0.03            acde    = 1             
+moin    = 15              noff    = 0.9             voffcv  = 0.02          

+kt1     = -0.11           kt1l    = 0               kt2     = 0.022           ute     = -1.5          
+ua1     = 4.31e-009       ub1     = 7.61e-018       uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0             

+jss     = 0.0001          jsws    = 1e-011          jswgs   = 1e-010          njs     = 1             
+ijthsfwd= 0.01            ijthsrev= 0.001           bvs     = 10              xjbvs   = 1             
+jsd     = 0.0001          jswd    = 1e-011          jswgd   = 1e-010          njd     = 1             
+ijthdfwd= 0.01            ijthdrev= 0.001           bvd     = 10              xjbvd   = 1             
+pbs     = 1               cjs     = 0.0005          mjs     = 0.5             pbsws   = 1             
+cjsws   = 5e-010          mjsws   = 0.33            pbswgs  = 1               cjswgs  = 3e-010        
+mjswgs  = 0.33            pbd     = 1               cjd     = 0.0005          mjd     = 0.5           
+pbswd   = 1               cjswd   = 5e-010          mjswd   = 0.33            pbswgd  = 1             
+cjswgd  = 5e-010          mjswgd  = 0.33            tpb     = 0.005           tcj     = 0.001         
+tpbsw   = 0.005           tcjsw   = 0.001           tpbswg  = 0.005           tcjswg  = 0.001         
+xtis    = 3               xtid    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1             
                 

MNmos5 nodeA_ nodeA 0 0 nmos W={wmin}  L={lmin}
MPmos5 nodeA_ nodeA vcc vcc pmos W={2*wmin} L={lmin}

MNmos6 nodeB_ nodeB 0 0 nmos W={wmin}  L={lmin}
MPmos6 nodeB_ nodeB vcc vcc pmos W={2*wmin} L={lmin}

MPmos1 mid1 nodeA vcc vcc pmos W={2*wmin} L={lmin}
MPmos2 out nodeB_ mid1 vcc pmos W={2*wmin} L={lmin}
MPmos3 mid2 nodeA_ vcc vcc pmos W={2*wmin} L={lmin}
MPmos4 out nodeB mid2 vcc pmos W={2*wmin} L={lmin}

MNmos1 out nodeA mid3 0 nmos W={wmin} L={lmin}
MNmos2 mid3 nodeB 0 0 nmos W={wmin} L={lmin}
MNmos3 out nodeA_ mid4 0 nmos W={wmin} L={lmin}
MNmos4 mid4 nodeB_ 0 0 nmos W={wmin} L={lmin}

vcc1 vcc 0 pvdd

Va 	nodeA 	0 	Vin_A
Vb 	nodeB 	0 	Vin_B

.END